US07199147B2
A 6N aqueous sodium hydroxide solution (5 ml, 30 mmol) was added dropwise to a solution of 1-acetyl-4-fluoro-1H-indazol-5-yl acetate (995 mg, 3.78 mmol) in methanol (5 ml)-tetrahydrofuran (5 ml) at room temperature, and the resulting mixture was stirred for 3.5 hours while being maintained at room temperature. The resulting reaction solution was adjusted to pH 5 to 6 by dropwise addition of a 1N aqueous hydrochloric acid solution (about 25 ml) and extracted with ethyl acetate, and the organic layer was washed with an aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography (eluent: chloroform/ethyl acetate) to obtain 4-fluoro-1H-indazol-5-ol (219 mg, 38%).

reactant | sodium hydroxide | 30 mmol, 6N, 5 ml | [OH-].[Na+]
reactant | 1-acetyl-4-fluoro-1H-indazol-5-yl acetate | 3.78 mmol, 995 mg | C(C)(=O)OC=1C(=C2C=NN(C2=CC1)C(C)=O)F | C11H9FN2O3
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, about 25 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 4-fluoro-1H-indazol-5-ol | 219 mg, 38% | FC1=C2C=NNC2=CC=C1O | C7H5FN2O
